US04273773
1,3-Dihydro-2-[2-[N-(1,1-dimethylethoxycarbonyl)amino]ethyl]-2H-isoindole-1,3-dicarboxylic Acid Dimethyl Ester (VIII; R8, R9, R10, R11, R18 and R19 =H; R20 =1,1-dimethylethoxycarbonyl and Alk=Me)
A solution of N-(1,1-dimethylethoxycarbonyl)-ethylene diamine (3 g) in benzene (25 ml) is added dropwise to a solution of α,α'-dibromo-1,2-benzenediacetic acid methyl ester (3.78 g) and triethylamine (3.5 g) in benzene (75 ml). The mixture is refluxed for 18 hr using a water separator condenser and filtered. The filtrate is evaporated and the residue is chromatographed on silica gel using diethyl ether-hexane-pyridine (500:500:1). The eluate is evaporated to give the title compound (1.7 g), nmr (CDCl3) δ1.4(s), 3.03(m), 3.63(s), 5.0(s) and 7.17(m).

reactant | N-(1,1-dimethylethoxycarbonyl)-ethylene diamine | 3 g | CC(C)(OC(=O)NCCN)C | C7H16N2O2
reactant | α,α'-dibromo-1,2-benzenediacetic acid methyl ester | 3.78 g | COC(C(C=1C(=CC=CC1)C(C(=O)O)Br)Br)=O | C11H10Br2O4
reactant | triethylamine | 3.5 g | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
solvent | benzene | 25 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 75 ml | C1=CC=CC=C1 | C6H6
product | 1,3-Dihydro-2-[2-[N-(1,1-dimethylethoxycarbonyl)amino]ethyl]-2H-isoindole-1,3-dicarboxylic Acid Dimethyl Ester | 1.7 g | COC(=O)C1N(C(C2=CC=CC=C12)C(=O)OC)CCNC(=O)OC(C)(C)C | C19H26N2O6
